US04367229
50.5 g of 2-amino-pyrroline are dissolved in 600 ml. of ethanol and the solution is cooled to -10° C., and added dropwise under stirring at -10° C. to a solution of 127.8 g. of diethyl-ethoxy-methylene-malonate in 200 ml. of ethanol within 3 hours. The reaction mixture is then stirred for a further 1 hour at 0° C. and allowed to stand for 24 hours. The ethanol is distilled off at reduced pressure and the residual yellow oil, containing a mixture of ethyl-4-oxo-4,6,7,8-tetrahydro-pyrrolo[1,2-a]pyrimidine-3-carboxylate and ethyl 2-oxo-2,6,7,8-tetrahydro-pyrrolo[1,2-a]pyrimidino-3-carboxylate at a ratio of 4:1 is dissolved under boiling in 400 ml. benzene. The benzene solution is allowed to crystallize under cooling. The precipitated crystals are filtered. 22 g. (17%) of ethyl 2-oxo-2,6,7,8-tetrahydro-pyrrolo[1,2-a]pyrimidine-3-carboxylate are obtained, melting at 193° C. after recrystallization from ethanol.

reactant | 2-amino-pyrroline | 50.5 g | NC=1NCCC1 | C4H8N2
reactant | diethyl-ethoxy-methylene-malonate | C(C)C(C)(OC=C(C(=O)[O-])C(=O)[O-])CC
reactant | ethanol | C(C)O | C2H6O
product | ethyl 2-oxo-2,6,7,8-tetrahydro-pyrrolo[1,2-a]pyrimidine-3-carboxylate | 17% | O=C1N=C2N(C=C1C(=O)OCC)CCC2 | C10H12N2O3
